Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
-___ bedside I&D of maxillary-buccal vestibule abscess by OMFS 
with wick placement

attach
 
Pertinent Results:
Admission labs:
===============

___ 02:30PM BLOOD WBC-10.5* RBC-4.15 Hgb-11.9 Hct-38.0 
MCV-92 MCH-28.7 MCHC-31.3* RDW-14.1 RDWSD-47.6* Plt ___
___ 02:30PM BLOOD Neuts-79* Lymphs-18* Monos-3* Eos-0* 
Baso-0 AbsNeut-8.30* AbsLymp-1.89 AbsMono-0.32 AbsEos-0.00* 
AbsBaso-0.00*
___ 02:30PM BLOOD Glucose-87 UreaN-20 Creat-0.8 Na-142 
K-3.6 Cl-102 HCO3-23 AnGap-17
___ 02:30PM BLOOD Calcium-8.6 Phos-3.0 Mg-2.0

Micro:
======
-___ UCx: NO GROWTH (final)
-___ BCx: NGTD
-___ BCx: NGTD

Imaging:
========
CT at ___ ___
FINDINGS:  Significant motion artifact and streak artifact from 
dental amalgam limits evaluation to some extent.

There is extensive destructive dental disease.  ___ 2 
demonstrates dental caries and amalgam.  ___ 3 is mostly
destroyed and the roots of both of these two teeth and the 
maxillary ridge where they reside show extensive bone
destruction.  There is adjacent phlegmon and a rim enhancing 
abscess (10:72) which measures 8 mm in diameter at the
site, although hyperenhancing phlegmonous changes are more 
extensive than that.  This is associated with superficial
thrombophlebitis, which appears occlusive, along sections of the 
angular/facial vein coursing through the region.
Associated with although these findings is fat stranding and 
swelling of subcutaneous tissues overlying the base
including some inferior tracking of inflammatory change which 
involves the right submandibular space.

Nearly all of the remaining teeth show dental severe dental 
caries.  This includes bone destruction at the root sockets
of the teeth specifically ___ 7, 8, 9, 10 and 11.  Other 
teeth along the left maxillary ridge are absent.  All of
the remaining mandibular teeth show dental caries.  There is 
substantial bone destruction along the roots ___ 27 and
28.  There is no phlegmonous change or abscess at these sites, 
however.

There is mild mucosal thickening along the floor of the right 
maxillary sinus and among bilateral ethmoid air cells.
Moderate mucosal thickening including hyperdense material which 
could be seen due to long chronicity, with
proteinaceous debris or even fungal colonization, involves the 
left maxillary sinus.  Sphenoid and frontal sinuses
appear clear.

Aside from findings outlined above, surrounding soft tissue 
structures are unremarkable.

Limited views of intracranial contents show moderate age-related 
involutional changes.

IMPRESSION:  Phlegmon and abscess overlying the right maxillary 
ridge at a site of bone destruction and extensive tooth
decay involving ___ teeth 2 and 3.  Superficial thrombophlebitis 
associated with this along the right side of the face.
More generally, severe dental disease including numerous dental 
caries and bone destruction along root sockets.

Discharge labs:
================
___ 09:15AM BLOOD WBC-12.8* RBC-3.82* Hgb-10.9* Hct-34.8 
MCV-91 MCH-28.5 MCHC-31.3* RDW-14.1 RDWSD-47.2* Plt ___
___ 09:15AM BLOOD ALT-34 AST-55* LD(LDH)-378* AlkPhos-171* 
TotBili-0.4
___ 09:15AM BLOOD Glucose-84 UreaN-16 Creat-0.6 Na-139 
K-3.2* Cl-96 HCO3-29 AnGap-14
 
Brief Hospital Course:
Ms. ___ is an ___ y/o F w/ PMHx notable for MCI/?dementia, 
HTN, hx of sinus arrhythmia, hypothyroidism who presents with 
significant right sided facial swelling x3 days found to have 
right maxillary buccal vestibule abscess s/p bedside I&D by OMFS 
in ED on ___, admitted for IV abx.  She clinically improved 
with IV unasyn. Was able to tolerate a soft diet on ___ & ___. 
___ cleared her for home discharge on oral abx on ___. She was 
transitioned to augmentin to complete a 7 day course (last day 
___.

Hospital course notable for finding of a mild, mixed 
transaminitis.  RUQ u/s was unremarkable and Hep serologies were 
negative.

Patient also with episodes of confusion and poor recall, however 
at discharge, patient was AO x 3.

TRANSITIONAL ISSUES:
[] augmentin to finish ___
[] re-check LFTs as outpatient (ALT 34 AST 55 LDH 378 TBili 0.4)
[] WBC at discharge 12.8, recheck CBC at f/u
[] Consider outpatient neurocognitive evaluation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. melatonin 3 mg oral QHS:PRN insomnia 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
8. Memantine 7 mg PO DAILY 
9. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
10. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate [Peridex] 0.12 % 15mL twice a day 
Refills:*1 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 13 
Doses 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*9 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
5.  Docusate Sodium 100 mg PO BID  
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  melatonin 3 mg oral QHS:PRN insomnia  
8.  Memantine 7 mg PO DAILY  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Right maxillary-bucal vestibule abscess
# Poor dentition: severe
# Transaminitis: mild, mixed picture
# Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with right-sided face swelling 
and pain that was caused by a large dental abscess.  You were 
evaluated by our oral surgeons who performed an incision and 
drainage of the abscess and you were treated with intravenous 
antibiotics.  Overall, your dental infection improved but you 
will need to continue taking antibiotics for the next 5 days, 
continue using the Peridex mouthrinse, and you will need to see 
a dentist this week for further treatment of your very severe 
dental disease.

We wish you the best.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___